datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1cc(/C=N/c2ncc3c(n2)[nH]c[n:10]3)ccc1O.Fc1cccc([NH2+:21][H:20])c1>>COc1cc(/C=N/c2ncc3c(n2)[nH]c[n+:10]3[H:20])ccc1O.Fc1cccc([NH2:21])c1 10=20;20,21=21",
"CC1=NCCc2c1[n:21]([H:20])c1ccccc21.C[Si](C)(C)C[NH2:10]>>CC1=NCCc2c1[n-:21]c1ccccc21.C[Si](C)(C)C[NH2+:10][H:20] 10=20;20,21=21",
"C1CNCCNCC[NH:10]C1.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C1CNCCNCC[NH+:10]([H:20])C1.[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"CC(C)[NH:10]CCN.N#C[CH:21](C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)[NH+:10](CCN)[H:20].N#C[CH-:21]C1=C([N+](=O)[O-])C=C([N+](=O)[O-])C=C1 10=20;20,21=21",
"COC(=O)c1cccc[n:10]1.O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]c([O:21][H:20])ccc3c2)[C@@H](O)[C@H](O)[C@H]1O>>COC(=O)c1cccc[n+:10]1[H:20].O=C([O-])[C@@H]1O[C@H](Oc2ccc3[nH+]c([O-:21])ccc3c2)[C@@H](O)[C@H](O)[C@H]1O 10=20;20,21=21",
"Cc1cc(-c2ccccc2)nn2cc[n:10]c12.Cc1cc2ccccc2[n+:21]([H:20])c1C>>Cc1cc(-c2ccccc2)nn2cc[n+:10]([H:20])c12.Cc1cc2ccccc2[n:21]c1C 10=20;20,21=21",
"COc1cc(C[NH+](C)C)c([O-:10])c(C[NH+](C)C)c1.Nc1nccc(-c2csc(N)[n+:21]2[H:20])n1>>COc1cc(C[NH+](C)C)c([O:10][H:20])c(C[NH+](C)C)c1.Nc1nccc(-c2csc(N)[n:21]2)n1 10=20;20,21=21",
"COc1cccc(C[NH2:10])c1O.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>COc1cccc(C[NH2+:10][H:20])c1O.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCCC[N:10](CC(O)CC)CC(O)CC.C[N+:21]1([H:20])CCOCC1>>CCCCCCCCCCCC[N+:10](CC(O)CC)(CC(O)CC)[H:20].C[N:21]1CCOCC1 10=20;20,21=21",
"Cc1cccc(Cl)c1C(=O)[O-:10].O=C(Cc1ccccc1)C(=O)[O:21][H:20]>>Cc1cccc(Cl)c1C(=O)[O:10][H:20].O=C(Cc1ccccc1)C(=O)[O-:21] 10=20;20,21=21",
"CC#C/C=C/C(=O)[O:21][H:20].COC(=O)C1CSC[NH:10]1>>CC#C/C=C/C(=O)[O-:21].COC(=O)C1CSC[NH+:10]1[H:20] 10=20;20,21=21",
"C(Cc1nnn[n-]1)NCC[NH:10]CCc1nnn[n-]1.CC[NH2+:21][H:20]>>C(Cc1nnn[n-]1)NCC[NH+:10](CCc1nnn[n-]1)[H:20].CC[NH2:21] 10=20;20,21=21",
"CNc1cccc[n:10]1.Nc1cnc2ccccc2[n+:21]1[H:20]>>CNc1cccc[n+:10]1[H:20].Nc1cnc2ccccc2[n:21]1 10=20;20,21=21",
"Cc1cc(C)c([O:21][H:20])c(C)c1[N+](=O)[O-].O=Cc1cccc(B(O)[O-:10])c1>>Cc1cc(C)c([O-:21])c(C)c1[N+](=O)[O-].O=Cc1cccc(B(O)[O:10][H:20])c1 10=20;20,21=21",
"CCC[O-:10].O=C(C1=CC=NC=C1)[CH:21](C1=CC=C(Cl)C=C1)[H:20]>>CCC[O:10][H:20].O=C(C1=CC=NC=C1)[CH-:21]C1=CC=C(Cl)C=C1 10=20;20,21=21",
"O=C([O-])CNC(=O)c1cccc(O)c1[O:21][H:20].[S-]c1cc[n:10]c2ccccc12>>O=C([O-])CNC(=O)c1cccc(O)c1[O-:21].[S-]c1cc[n+:10]([H:20])c2ccccc12 10=20;20,21=21",
"COc1ccc2c(c1)CC(C)[NH:10]2.c1cc([OH+:21][H:20])c2cn[nH]c2c1>>COc1ccc2c(c1)CC(C)[NH+:10]2[H:20].c1cc([OH:21])c2cn[nH]c2c1 10=20;20,21=21",
"c1ccc2c(c1)C1CC[N+:21]2([H:20])c2ccccc21.c1ccc2nc[n:10]cc2c1>>c1ccc2c(c1)C1CC[N:21]2c2ccccc21.c1ccc2nc[n+:10]([H:20])cc2c1 10=20;20,21=21",
"CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S-:10].O=C([C@@H]1CCCC[C@@H]1O)[O:21][H:20]>>CC/C=C/Cc1nccn1C(C(=O)[O-])C(C)(C)[S:10][H:20].O=C([C@@H]1CCCC[C@@H]1O)[O-:21] 10=20;20,21=21",
"C[N+:21](C)(CC(Cl)CCl)[H:20].S=C(c1ccccc1)[N-:10]c1ccc(Cl)cc1>>C[N:21](C)CC(Cl)CCl.S=C(c1ccccc1)[N:10](c1ccc(Cl)cc1)[H:20] 10=20;20,21=21",
"N#[C:21][H:20].O=[Se](c1ccccc1-c1ccccc1)[O-:10]>>N#[C-:21].O=[Se](c1ccccc1-c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"Cc1ccc(C(=O)/C=C/C(=O)[O-:10])cc1.Cc1ccccc1C(c1ccccc1C)=[N+:21](CCC[NH+](C)C)[H:20]>>Cc1ccc(C(=O)/C=C/C(=O)[O:10][H:20])cc1.Cc1ccccc1C(c1ccccc1C)=[N:21]CCC[NH+](C)C 10=20;20,21=21",
"CC(=O)c1ccc([O-:10])c(O)c1.O=C(/C=C\c1c[nH]c[nH+]1)[O:21][H:20]>>CC(=O)c1ccc([O:10][H:20])c(O)c1.O=C(/C=C\c1c[nH]c[nH+]1)[O-:21] 10=20;20,21=21",
"NC(=O)c1ccccc1C(=O)[O:21][H:20].O=C(O)c1nccc[n:10]1>>NC(=O)c1ccccc1C(=O)[O-:21].O=C(O)c1nccc[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)N1CCCC1C(=O)[O:21][H:20].CC(C)NNC1CC[N:10](C(C)C)CC1>>CC(=O)N1CCCC1C(=O)[O-:21].CC(C)NNC1CC[N+:10](C(C)C)([H:20])CC1 10=20;20,21=21",
"CC[NH:10]CCCC(=O)[O-].O=[N+]([O-])[CH:21](SC1=CC=CC=C1)[H:20]>>CC[NH+:10](CCCC(=O)[O-])[H:20].O=[N+]([O-])[CH-:21]SC1=CC=CC=C1 10=20;20,21=21",
"CC1=[N:10]c2ccccc2CO1.Nc1nc[n+:21]([H:20])c2ccccc12>>CC1=[N+:10]([H:20])c2ccccc2CO1.Nc1nc[n:21]c2ccccc12 10=20;20,21=21",
"CCOc1ccc2ccc(OCC)c([N:10]3CCOCC3)c2c1N1CCOCC1.O=C([O-])/C=C/C[NH2+:21][H:20]>>CCOc1ccc2ccc(OCC)c([N+:10]3([H:20])CCOCC3)c2c1N1CCOCC1.O=C([O-])/C=C/C[NH2:21] 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].O=C(C[NH2:10])Nc1ccccc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C(C[NH2+:10][H:20])Nc1ccccc1 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC[NH2:10])nc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(CC[NH2+:10][H:20])nc1 10=20;20,21=21",
"CCCCC[NH:10]Cc1ccc(C)cc1.[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N+:21]1([H:20])CCOCC1>>CCCCC[NH+:10](Cc1ccc(C)cc1)[H:20].[O-]c1c(Cl)cc(Cl)c(Cl)c1C[N:21]1CCOCC1 10=20;20,21=21",
"C[N:10](C)CCC(c1ccccc1)c1ccccc1.c1ccc([P+:21](c2ccccc2)(c2ccccc2)[H:20])cc1>>C[N+:10](C)(CCC(c1ccccc1)c1ccccc1)[H:20].c1ccc([P:21](c2ccccc2)c2ccccc2)cc1 10=20;20,21=21",
"Cc1ccc([O:21][H:20])c([N+](=O)[O-])c1.[O-]c1cccc2c1-c1c-2cccc1[O-:10]>>Cc1ccc([O-:21])c([N+](=O)[O-])c1.[O-]c1cccc2c1-c1c-2cccc1[O:10][H:20] 10=20;20,21=21",
